US07875606B2
0.5 g (3.5 mmoles) of anhydrous potassium carbonate was added, at room temperature, into a solution of 1.0 g (2.9 mmoles) of 5-chloromethyl-3-(5-hydroxy-1-methyl-3-trifluoromethyl-1H-pyrazol-4-ylmethylthio)-5-methyl-2-isoxazoline dissolved in 10 ml of N,N-dimethylformamide. Thereto was added, at room temperature, 0.6 g (3.5 mmoles) of isopropyl iodide. The mixture was stirred for 30 minutes to give rise to a reaction. After the completion of the reaction, the reaction mixture was poured into water and extraction with ethyl acetate was conducted. The resulting organic layer was washed with water and an aqueous sodium chloride solution in this order, and then dried over anhydrous magnesium sulfate. The resulting solution was subjected to reduced pressure distillation to remove the solvent contained therein. The residue was purified by silica gel column chromatography to obtain 0.5 g (yield: 45.0%) of 5-chloromethyl-3-(1-methyl-5-isopropoxy-3-trifluoromethyl-1H-pyrazol-4-ylmethylthio)-5-methyl-2-isoxazoline.

reactant | potassium carbonate | 3.5 mmoles, 0.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | 5-chloromethyl-3-(5-hydroxy-1-methyl-3-trifluoromethyl-1H-pyrazol-4-ylmethylthio)-5-methyl-2-isoxazoline | 2.9 mmoles, 1.0 g | ClCC1(CC(=NO1)SCC=1C(=NN(C1O)C)C(F)(F)F)C | C11H13ClF3N3O2S
reactant | isopropyl iodide | 3.5 mmoles, 0.6 g | C(C)(C)I | C3H7I
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-chloromethyl-3-(1-methyl-5-isopropoxy-3-trifluoromethyl-1H-pyrazol-4-ylmethylthio)-5-methyl-2-isoxazoline | 0.5 g, yield: 45.0% | ClCC1(CC(=NO1)SCC=1C(=NN(C1OC(C)C)C)C(F)(F)F)C | C14H19ClF3N3O2S
